US06653481B2
Diethyl 4-(2-chlorophenyl)-2-{[2-(1.3-dioxo-1.3-dihydro-2H-isoindol-2-yl) ethoxy] methyl}-6-methyl-1.4-dihydro-3.5-pyridine dicarboxylate (Compound 2b)
116.7 g of ethyl 2-(o-chlorobenzylidene)-4-(2-phthalimidoethoxy)acetoacetate was dissolved in 120 ml of 2-propanol at 80° C. 31.2 g of ethyl-3-aminocrotonate was added and the mixture was heated at the same temperature for 16 hours. The mixture was evaporated to dryness. The residue was dissolved in 180 ml of glacial acetic acid at 80° C. The mixture was cooled to 15° C. and stirred at the same temperature for 20 hours. The solid was filtered off and washed with 92 ml of glacial acetic acid. The solid was dissolved in 75 ml of ethanol at 80° C. The solution was cooled to 20° C. and the suspension was agitated for 2 h. The solid was filtered off, washed with 25 ml of ethanol. The wet product was recrystallized from 60 ml of ethyl acetate. Yield: 43.6 g (30%) of the product, purity (HPLC, IN) −98.4%; m.p. 142.5-144° C.

reactant | ethyl 2-(o-chlorobenzylidene)-4-(2-phthalimidoethoxy)acetoacetate | 116.7 g | ClC1=C(C=C(C(=O)OCC)C(=O)COCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C23H20ClNO6
reactant | ethyl-3-aminocrotonate | 31.2 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | 2-propanol | 120 ml | CC(C)O | C3H8O
product | Diethyl 4-(2-chlorophenyl)-2-{[2-(1.3-dioxo-1.3-dihydro-2H-isoindol-2-yl) ethoxy] methyl}-6-methyl-1.4-dihydro-3.5-pyridine dicarboxylate | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)COCCN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC | C29H29ClN2O7
